US04284641
Preparation of 1-(4-methylcyclohexylmethyl)imidazole
4-Methylcyclohexylmethyl bromide (3.1 g; 0.0164 M) was added dropwise to a refluxing solution of imidazole (1.12 g; 0.0165 M) in a solution of potassium tertiary butoxide (1.85 g; 0.0165 M) in n-butanol (50 cm3). The reaction mixture was kept under dry nitrogen. After addition the mixture was heated under reflux for a further 2 hours and stood overnight at room temperature. TLC showed reaction half complete. The mixture was refluxed for a further 8 hours and stood over weekend at room temperature. TLC showed no further reaction was occurring. Insoluble material was filtered off, and solvent removed under vacuum. Residue taken up in 2 N-HCl (100 cm3) and washed with ether (50 ml). Aqueous layer basified with excess 10 N NaOH and extracted with chloroform (3×50 cm3). Combined extracts were dried over anhydrous MgSO4 and solvent removed under vacuum. Oily residue was run on a silica gel column and eluted with EtOAc/MeOH 9:1. 0.8 g of column product obtained and was distilled to give 0.28 g of pure product having b.p. 80° C. at 0.125 mmHg.

reactant | 4-Methylcyclohexylmethyl bromide | 0.0164 M, 3.1 g | CC1CCC(CC1)CBr | C8H15Br
reactant | imidazole | 0.0165 M, 1.12 g | N1C=NC=C1 | C3H4N2
reactant | potassium tertiary butoxide | 0.0165 M, 1.85 g | CC(C)([O-])C.[K+]
solvent | n-butanol | 50 cm3 | C(CCC)O | C4H10O
product | 1-(4-methylcyclohexylmethyl)imidazole | 0.28 g | CC1CCC(CC1)CN1C=NC=C1 | C11H18N2
